US06552013B1
Preparation of Methyl-2-(S)-(2-trimethylsilylethyloxy-)methyloxy-3-methylbutanoate
A solution of methyl-2-(S)-hydroxy-3-methylbutanoate (1.0 eq; J. Org. Chem. (1997), 62(7), 2292-2297, incorporated herein by reference) in dichloromethane was stirred with diisopropylethylamine (2.0 eq) under nitrogen. 2-Trimethylsilylethoxymethyl chloride (3 eq; Aldrich) was added dropwise via syringe. The solution was stirred at room temperature for 17 hours. The solution was washed with 1.0N HCl, and the water layer was back extracted with dichloromethane. The organics were combined, dried over Na2SO4, and the solvents removed in vacuo. The residue was purified via radial chromatography using 20% ethyl acetate in hexanes affording the title intermediate as a clear oil.

reactant | methyl-2-(S)-hydroxy-3-methylbutanoate | COC([C@H](C(C)C)O)=O | C6H12O3
reactant | diisopropylethylamine | 2.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-Trimethylsilylethoxymethyl chloride | 3 eq | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl-2-(S)-(2-trimethylsilylethyloxy-)methyloxy-3-methylbutanoate | COC([C@H](C(C)C)OCOCC[Si](C)(C)C)=O | C12H26O4Si
